US05091432
Synthesis of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-(3,4-dihydroxyphenyl)-2-hydroxyethyl]-N-methylpropanamide (AIT-0100).
0.300 g (0.9111 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester (AIT-0081) and 0.167 g (0.9111 mmol) of (R)-(-)-epinephrine were placed into a 10 ml round bottom flask with 2 ml dimethylsulfoxide (dried over barium oxide) and a magnetic stirring bar. The solution was stirred at room temperature (25°) and was initially heterogeneous. After about 45 minutes, as the epinephrine began to react with AIT-0081, the solution was a nearly homogeneous yellow orange color. The solution was stirred an additional two hours, drawn into a pasteur pipet, and added with stirring to a flask containing 50 ml acetone and a magnetic stirring bar. A copious white precipitate formed and the solution was stirred for ten minutes. The solution was filtered by vacuum and the white solid washed with acetone. The Buchner funnel was immediately placed under high vacuum to remove small traces of dimethylsulfoxide. 120 mg of a white solid, 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-(3,4-dihydroxyphenyl)-2-hydroxyethyl]-N-methylpropanamide (AIT-0100), was obtained. Yield: 48%.

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester | 0.9111 mmol, 0.300 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N5O5
reactant | (R)-(-)-epinephrine | 0.9111 mmol, 0.167 g | CNC[C@@H](C1=CC(=C(C=C1)O)O)O | C9H13NO3
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | epinephrine | CNC[C@@H](C=1C=CC(=C(C1)O)O)O | C9H13NO3
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-(3,4-dihydroxyphenyl)-2-hydroxyethyl]-N-methylpropanamide | 120 mg, Yield: 48% | O=C1C=2N=CN(C2N=CN1)CCC(=O)N(C)CC(O)C1=CC(=C(C=C1)O)O | C17H19N5O5
